US04563472
A mixture of 6.18 g (60 mmoles) of 5-aminotetrazole with 56.3 ml of acetic anhydride was stirred at 20°-25° C. overnight. The so separated white precipitate was recovered by filtration, washed with a small volume of ethyl acetate and dried to give 3.5 g of 5-acetylaminotetrazole (Yield 45.8%). Thereafter, 10 ml of N,N-dimethylformamide and 120 mg of powdery sodium hydroxide were added to 571 mg (4.5 mmoles) of 5-acetylaminotetrazole and the resulting mixture was stirred at 20°-25° C. for one hour. Then, 1.77 g (3 mmoles) of 2,3,3-triiodoallyl-p-toluenesulfonic acid ester were added thereto and stirring was continued for 5 hours. To the reaction mixture was added water, the so separated white crystal was recovered by filtration, washed with a small volume of water and dried to give 578 mg of 5-acetylamino-1-(2',3',3'-triiodoallyl)tetrazole.

reactant | 5-aminotetrazole | 60 mmoles, 6.18 g | NC1=NN=NN1 | CH3N5
reactant | acetic anhydride | 56.3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-acetylaminotetrazole | 3.5 g, Yield 45.8% | C(C)(=O)NC1=NN=NN1 | C3H5N5O
